US09061013B2
3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid cyclopropylamide
To a stirred solution of 3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 6, 0.080 g, 0.156 mmol) in DMF (2 mL) was added HOBt (0.022 g, 0.156 mmol), DIPEA (0.040 g, 0.302 mmol) followed by addition of EDCl.HCl (0.045 g, 0.256 mmol) and cyclopropyl amine (0.009 g, 0.156 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 18 hours under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was quenched with water (10 mL), extracted with ethyl acetate (2×10 mL). Combined organic layer was washed with brine (20 mL), lithium chloride solution (20 mL), water (20 mL), dried over sodium sulphate and evaporated in vacuo to get crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 1% methanol in DCM to afford thick yellow oil, which was re-purified by DCM in pentane (1:9) to afford white solid (0.035 g, 41%. 1H-NMR (400 MHz, CDCl3) δ: 0.48-0.52 (m, 2H), 0.76-0.81 (m, 2H), 2.69-2.77 (m, 2H), 2.83-2.93 (m, 3H), 3.15-3.23 (m, 1H), 3.67 (d, 1H, J=17.2 Hz), 4.07 (d, 1H, J=17.2 Hz), 5.58 (bs, 1H), 7.56-7.58 (m, 2H), 7.64-7.66 (m, 4H). LC-MS (m/z): [M−H] 546.90.

reactant | 3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.156 mmol, 0.080 g | FC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H14Cl3F4NO3
reactant | HOBt | 0.156 mmol, 0.022 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.302 mmol, 0.040 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.256 mmol, 0.045 g | Cl | ClH
reactant | cyclopropyl amine | 0.156 mmol, 0.009 g | C1(CC1)N | C3H7N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)F | C24H19Cl3F4N2O2
